US09108916B2
4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indan-1-one (34)
Potassium acetate (17.8 g, 181.6 mmol) and Pd(dppf)Cl2(3.3 g, 4.5 mmol) were added to a solution of 4-bromo-1-indanone (19.3 g, 91.5 mmol) and bis(pinacolato)diboron (23.2 g, 91.3 mmol) in dioxane (300 mL). The mixture was heated to 80° C. under argon, kept at this temperature for 16 h, cooled, filtered through Celite, and evaporated. The residue was dissolved in CH2Cl2. The product was purified on a short thick column with silica gel (eluent: hexane-ethyl acetate 100:0→50:50). Yield of 34: 23.4 g. The product containing bis(pinacolato)diboron (about 7 molar %) was used in the next step without additional purification.

reactant | Potassium acetate | 181.6 mmol, 17.8 g | C(C)(=O)[O-].[K+]
reactant | 4-bromo-1-indanone | 91.5 mmol, 19.3 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | bis(pinacolato)diboron | 91.3 mmol, 23.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 4.5 mmol, 3.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indan-1-one | CC1(OB(OC1(C)C)C1=C2CCC(C2=CC=C1)=O)C | C15H19BO3
